* NGSPICE file created from array_row_decode.ext - technology: sky130A

.subckt sky130_fd_sc_hd__inv_1 A VGND VNB VPB VPWR Y
X0 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__nand2_2 A B VGND VNB VPB VPWR Y
X0 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X2 VPWR B Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X3 a_27_47# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X4 a_27_47# A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X5 Y A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X6 Y B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X7 VGND B a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0.4524 ps=4.52 w=0.87 l=0.59
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0.286 ps=3.24 w=0.55 l=0.59
.ends

.subckt sky130_fd_sc_hd__nor3_1 A B C VGND VNB VPB VPWR Y
X0 VPWR A a_193_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X1 a_193_297# B a_109_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X2 Y B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X3 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X4 a_109_297# C Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X5 VGND C Y VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt array_row_decode VPWR VGND a[4] a[3] a[2] a[1] a[0] w[31] w[30] w[29] w[28]
+ w[27] w[26] w[25] w[24] w[23] w[22] w[21] w[20] w[19] w[18] w[17] w[16] w[15] w[14]
+ w[13] w[12] w[11] w[10] w[9] w[8] w[7] w[6] w[5] w[4] w[3] w[2] w[1] w[0]
Xx1 a[4] VGND VGND VPWR VPWR x1/Y sky130_fd_sc_hd__inv_1
Xx3 a[2] VGND VGND VPWR VPWR x3/Y sky130_fd_sc_hd__inv_1
Xx2 a[3] VGND VGND VPWR VPWR x2/Y sky130_fd_sc_hd__inv_1
Xx4 a[1] VGND VGND VPWR VPWR x6/B sky130_fd_sc_hd__inv_1
Xx5 a[0] VGND VGND VPWR VPWR x8/A sky130_fd_sc_hd__inv_1
Xx6 x8/A x6/B VGND VGND VPWR VPWR x6/Y sky130_fd_sc_hd__nand2_2
Xsky130_fd_sc_hd__decap_3_0[0] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[1] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[2] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[3] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[4] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[5] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[6] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[7] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[8] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[9] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[10] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[11] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[12] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[13] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[14] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_0[15] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__nand2_2_0 a[0] x6/B VGND VGND VPWR VPWR sky130_fd_sc_hd__nand2_2_0/Y
+ sky130_fd_sc_hd__nand2_2
Xx8 x8/A a[1] VGND VGND VPWR VPWR x8/Y sky130_fd_sc_hd__nand2_2
Xsky130_fd_sc_hd__decap_3_1[0] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[1] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[2] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[3] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[4] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[5] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[6] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[7] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[8] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[9] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[10] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[11] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[12] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[13] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[14] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xsky130_fd_sc_hd__decap_3_1[15] VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xx9 a[0] a[1] VGND VGND VPWR VPWR x9/Y sky130_fd_sc_hd__nand2_2
Xsky130_fd_sc_hd__decap_3_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xx10 x3/Y x2/Y VGND VGND VPWR VPWR x10/Y sky130_fd_sc_hd__nand2_2
Xx11 a[2] x2/Y VGND VGND VPWR VPWR x11/Y sky130_fd_sc_hd__nand2_2
Xx12 x3/Y a[3] VGND VGND VPWR VPWR x12/Y sky130_fd_sc_hd__nand2_2
Xx13 a[2] a[3] VGND VGND VPWR VPWR x13/Y sky130_fd_sc_hd__nand2_2
Xsky130_fd_sc_hd__nor3_1_0[0] x8/Y x13/Y x1/Y VGND VGND VPWR VPWR w[30] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[1] x6/Y x13/Y x1/Y VGND VGND VPWR VPWR w[28] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[2] x8/Y x12/Y x1/Y VGND VGND VPWR VPWR w[26] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[3] x6/Y x12/Y x1/Y VGND VGND VPWR VPWR w[24] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[4] x8/Y x11/Y x1/Y VGND VGND VPWR VPWR w[22] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[5] x6/Y x11/Y x1/Y VGND VGND VPWR VPWR w[20] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[6] x8/Y x10/Y x1/Y VGND VGND VPWR VPWR w[18] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[7] x6/Y x10/Y x1/Y VGND VGND VPWR VPWR w[16] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[8] x8/Y x13/Y a[4] VGND VGND VPWR VPWR w[14] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[9] x6/Y x13/Y a[4] VGND VGND VPWR VPWR w[12] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[10] x8/Y x12/Y a[4] VGND VGND VPWR VPWR w[10] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[11] x6/Y x12/Y a[4] VGND VGND VPWR VPWR w[8] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[12] x8/Y x11/Y a[4] VGND VGND VPWR VPWR w[6] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[13] x6/Y x11/Y a[4] VGND VGND VPWR VPWR w[4] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[14] x8/Y x10/Y a[4] VGND VGND VPWR VPWR w[2] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_0[15] x6/Y x10/Y a[4] VGND VGND VPWR VPWR w[0] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[0] x9/Y x13/Y x1/Y VGND VGND VPWR VPWR w[31] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[1] sky130_fd_sc_hd__nand2_2_0/Y x13/Y x1/Y VGND VGND VPWR
+ VPWR w[29] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[2] x9/Y x12/Y x1/Y VGND VGND VPWR VPWR w[27] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[3] sky130_fd_sc_hd__nand2_2_0/Y x12/Y x1/Y VGND VGND VPWR
+ VPWR w[25] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[4] x9/Y x11/Y x1/Y VGND VGND VPWR VPWR w[23] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[5] sky130_fd_sc_hd__nand2_2_0/Y x11/Y x1/Y VGND VGND VPWR
+ VPWR w[21] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[6] x9/Y x10/Y x1/Y VGND VGND VPWR VPWR w[19] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[7] sky130_fd_sc_hd__nand2_2_0/Y x10/Y x1/Y VGND VGND VPWR
+ VPWR w[17] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[8] x9/Y x13/Y a[4] VGND VGND VPWR VPWR w[15] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[9] sky130_fd_sc_hd__nand2_2_0/Y x13/Y a[4] VGND VGND VPWR
+ VPWR w[13] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[10] x9/Y x12/Y a[4] VGND VGND VPWR VPWR w[11] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[11] sky130_fd_sc_hd__nand2_2_0/Y x12/Y a[4] VGND VGND VPWR
+ VPWR w[9] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[12] x9/Y x11/Y a[4] VGND VGND VPWR VPWR w[7] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[13] sky130_fd_sc_hd__nand2_2_0/Y x11/Y a[4] VGND VGND VPWR
+ VPWR w[5] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[14] x9/Y x10/Y a[4] VGND VGND VPWR VPWR w[3] sky130_fd_sc_hd__nor3_1
Xsky130_fd_sc_hd__nor3_1_1[15] sky130_fd_sc_hd__nand2_2_0/Y x10/Y a[4] VGND VGND VPWR
+ VPWR w[1] sky130_fd_sc_hd__nor3_1
.ends

